US04091115
16 ml of 18 N sulfuric acid were added to a refluxing mixture of 8 g of 7-dimethylamino-5-hydroxy-6,7,8,9-tetrahydro [5H] benzocycloheptene and 80 ml of dioxane and after one half hour of reflux, another 80 ml of dioxane were added thereto. The mixture was refluxed another 30 minutes and was then cooled. The pH was raised above 10 by addition of concentrated ammonium hydroxide and the mixture was saturated with sodium chloride and was extracted with ethyl acetate. The organic extracts were washed with aqueous sodium chloride and then were dried and evaporated to dryness. The residue was chromatographed over silica gel and was eluted with a 7-3-1 cyclohexane-ethyl acetate-triethylamine mixture to obtain 3.6 g of 7-dimethylamino-6,7-dihydro [5H] benzocycloheptene.

reactant | sulfuric acid | 18 N, 16 ml | S(O)(O)(=O)=O | H2O4S
reactant | 7-dimethylamino-5-hydroxy-6,7,8,9-tetrahydro [5H] benzocycloheptene | 8 g | CN(C1CC(C2=C(CC1)C=CC=C2)O)C | C13H19NO
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 7-dimethylamino-6,7-dihydro [5H] benzocycloheptene | 3.6 g | CN(C1CCC2=C(C=C1)C=CC=C2)C | C13H17N
